US04603209
1-acetoxy-1-bromoacetone was extremely difficult or impossible to make by the standard preparation of 1-acyloxyalkyl bromide compounds, since the standard route would require preparation of pure anhydrous pyruvaldehyde, CH3COCHO, to be reacted with acetyl bromide. Anhydrous pyruvaldehyde is extremely hygroscopic, unstable, and prone to polymerization. All the above preparations of 1-acyloxyalkyl halides carried out with trimethylsilyl bromide and a catalytic quantity of anhydrous zinc chloride at room temperature overnight; if the starting 1,1-diester was solid, a chlorinated solvent (CH2Cl2, CHCl3, or CCl4) was added to make a homogeneous reaction mixture. Products were characterized by boiling point, NMR, and halide titration. Different Lewis acids were tested in the case of methylene dibenzoate. ZnCl2, ZnI2, ZrCl4, and SnCl4 all proved effective, AlCl3 less so. BF3.Et2O and Cu2Br2 were ineffective. 1-acyloxyalkyl chlorides can also be obtained by this general procedure, though more vigorous conditions are required and lower yields result. Thus C6H5COOCH2OCOC6H5 and Me3SiCl reacted in CCl4 with AlCl3 catalysis at 100° (sealed vessel) for 60 hrs. and gave a 35% yield of C6H5COOCH2Cl.

reactant | C6H5COOCH2OCOC6H5 | C1(=CC=CC=C1)C(=O)OCOC(=O)C1=CC=CC=C1 | C15H12O4
reactant | Me3SiCl | [Si](C)(C)(C)Cl | C3H9ClSi
reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | C6H5COOCH2Cl | 35% yield | C1(=CC=CC=C1)C(=O)OCCl | C8H7ClO2
